US07371773B2
The hydroxyl group of 4-hydroxy-3,5-dimethoxybenzaldehyde (2.44 g) was protected by use of 2-methoxyethoxymethyl chloride (1.67 g) in accordance with (production process 1), to thereby produce an MEM form (3.40 g, yield: 94%). The resultant MEM form (3.40 g) and 3,4-dimethoxybenzyl cyanide (2.23 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce (Z)-3-[3,5-dimethoxy-4-(2-methoxyethoxymethoxy)-phenyl]-2-(3,4-dimethoxy-phenyl)-acrylonitrile (3.53 g, yield: 65%). The thus-produced (Z)-3-[3,5-dimethoxy-4-(2-methoxyethoxymethoxy)-phenyl]-2-(3,4-dimethoxy-phenyl)-acrylonitrile (0.35 g) was subjected to deprotection in accordance with (production process 3), to thereby produce the target product (0.25 g, yield: 90%).

reactant | 4-hydroxy-3,5-dimethoxybenzaldehyde | 2.44 g | OC1=C(C=C(C=O)C=C1OC)OC | C9H10O4
reactant | 2-methoxyethoxymethyl chloride | 1.67 g | COCCOCCl | C4H9ClO2
reactant | 3,4-dimethoxybenzyl cyanide | 2.23 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-3-[3,5-dimethoxy-4-(2-methoxyethoxymethoxy)-phenyl]-2-(3,4-dimethoxy-phenyl)-acrylonitrile | 3.53 g, yield: 65% | COC=1C=C(C=C(C1OCOCCOC)OC)\C=C(/C#N)\C1=CC(=C(C=C1)OC)OC | C23H27NO7
